US09216981B2
The N-(3-amino-2,4-difluorophenyl)-1-methyl-1H-imidazole-4-sulfonamide (45 mg, 0.16 mmol) prepared at Step 5 and the 6-(2-fluoropyridin-3-yl)-9-(tetrahydro-2H-pyran-2-yl)-9H-purine (43 mg, 0.14 mmol) prepared at Step 7 were added and dissolved, and lithium (bistrimethylsilyl) amide (1.0M solution in THF) was applied slowly at 0° C. After stirring the reactant at room temperature for 1 hour, completing the reaction, pouring water, and extracting with ethylacetate, the organic layer was dried with sulfuric anhydride magnesium and vacuum concentrated, and then refined by means of column chromatography, so that 65 mg of the target compound, N-(2,4-difluoro-3-(3-(9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-yl)pyridin-2-ylamino)phenyl)-1-methyl-1H-imidazole-4-sulfonamide (percentage yield: 82%), was obtained.

reactant | N-(3-amino-2,4-difluorophenyl)-1-methyl-1H-imidazole-4-sulfonamide | 0.16 mmol, 45 mg | NC=1C(=C(C=CC1F)NS(=O)(=O)C=1N=CN(C1)C)F | C10H10F2N4O2S
reactant | 6-(2-fluoropyridin-3-yl)-9-(tetrahydro-2H-pyran-2-yl)-9H-purine | 0.14 mmol, 43 mg | FC1=NC=CC=C1C1=C2N=CN(C2=NC=N1)C1OCCCC1 | C15H14FN5O
solvent | water | O | H2O
product | N-(2,4-difluoro-3-(3-(9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-yl)pyridin-2-ylamino)phenyl)-1-methyl-1H-imidazole-4-sulfonamide | yield: 82% | FC1=C(C=CC(=C1NC1=NC=CC=C1C1=C2N=CN(C2=NC=N1)C1OCCCC1)F)NS(=O)(=O)C=1N=CN(C1)C | C25H23F2N9O3S
